US04940516
3.1. Preparation of the intermediate 6-(trifluoromethyl)-1,4-naphthoquinone
A mixture of 1.64 g (0.01 mmol) of 5-trifluoromethyl-2-oxo-2H-pyrane and 5.4 g (0.05 mol) of 1,4-benzoquinone in 7 ml of 1,2-dichlorobenzene is heated for 12 hours to 180° C. The reaction mixture is then concentrated by evaporation at 90°/20 mbar, and the distillation residue is chromatographed over 150 g of silica gel 60 (eluant: 19:1 mixture of CH2Cl2 /acetone; 0.3 bar overpressure). Yield: 1.82 g (80.52%); m.p. 80°-85° C.

reactant | 5-trifluoromethyl-2-oxo-2H-pyrane | 0.01 mmol, 1.64 g | FC(C=1C=CC(OC1)=O)(F)F | C6H3F3O2
reactant | 1,4-benzoquinone | 0.05 mol, 5.4 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | 1,2-dichlorobenzene | 7 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-(trifluoromethyl)-1,4-naphthoquinone | FC(C=1C=C2C(C=CC(C2=CC1)=O)=O)(F)F | C11H5F3O2
